US04371644
2,2-bis{4-[2-acetoxy-3-(1-acetyl-3-dodecyl-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)propoxy]phenyl}propane (Compound No. 259)
A mixture of 1.1 g of 2,2-bis{4-[2-hydroxy-3-(3-dodecyl-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)propoxy]phenyl}propane and 10 g of acetic anhydride was refluxed for 48 hours. After completion of the reaction, the reaction mixture was dissolved in ethyl acetate and treated with an aqueous alkali. The solution was then dried and condensed by evaporation under reduced pressure, affording a viscous product which was purified by column chromatography through silica gel eluted with a 1:1 by volume mixture of ethyl acetate and n-hexane, giving the desired Compound No. 259 in the form of a white powder melting at 52°-55° C.

reactant | 2,2-bis{4-[2-hydroxy-3-(3-dodecyl-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)propoxy]phenyl}propane | 1.1 g | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(CC2(C(N(C(N2)=O)CCCCCCCCCCCC)=O)CC1(C)C)(C)C)O)CN1C(CC2(C(N(C(N2)=O)CCCCCCCCCCCC)=O)CC1(C)C)(C)C | C67H110N6O8
reactant | acetic anhydride | 10 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-bis{4-[2-acetoxy-3-(1-acetyl-3-dodecyl-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)propoxy]phenyl}propane | C(C)(=O)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(CC2(C(N(C(N2C(C)=O)=O)CCCCCCCCCCCC)=O)CC1(C)C)(C)C)OC(C)=O)CN1C(CC2(C(N(C(N2C(C)=O)=O)CCCCCCCCCCCC)=O)CC1(C)C)(C)C | C75H118N6O12
